US06627629B2
Part F. Preparation of (3S,4R)-3-[(R)-1-Phenyl-ethylamino]-tetrahydro-pyran-4-carboxylic acid
A solution of (3S,4R)-3-[(R)-1-Phenyl-ethylamino]-tetrahydro-pyran-4-carboxylic acid ethyl ester (726 mg, 2.6 mmol) in tetrahydrofuran (6 mL) was treated with 1.0 M sodium hydroxide solution (5.2 mL, 5.2 mmol) and the heterogeneous mixture was stirred at room temperature. After 16 h , the now homogeneous solution was treated with 1.0 M hydrochloric acid (5.2 mL, 5.2 mmol) and concentrated in vacuo. The residue was dissolved in water and lyophilized to provide the product, along with sodium chloride, as a fluffy white solid (943 mg, quantitative), used without further purification. 1H NMR (300 mHz, CDCl3) δ7.41 (m, 5H), 4.09 (q, J=6.6 Hz, 1H), 3.98 (dd, J=11.7, 4.0 Hz, 1H), 3.77 (m, 1H), 3.33 (m, 1H), 3.08 (m, 2H), 2.37 (m, 1H), 2.19 (m, 1H), 1.79 (m, 1H), 1.61 (d, J=6.6 Hz, 3H), ESI MS: (M+H)+=250.3 (100%).

reactant | (3S,4R)-3-[(R)-1-Phenyl-ethylamino]-tetrahydro-pyran-4-carboxylic acid ethyl ester | 2.6 mmol, 726 mg | C(C)OC(=O)[C@H]1[C@@H](COCC1)N[C@H](C)C1=CC=CC=C1 | C16H23NO3
reactant | sodium hydroxide | 5.2 mmol, 1.0 M, 5.2 mL | [OH-].[Na+]
reactant | hydrochloric acid | 5.2 mmol, 1.0 M, 5.2 mL | Cl | ClH
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | (3S,4R)-3-[(R)-1-Phenyl-ethylamino]-tetrahydro-pyran-4-carboxylic acid | C1(=CC=CC=C1)[C@@H](C)N[C@@H]1COCC[C@H]1C(=O)O | C14H19NO3
